US07435815B2
3-[(Pyridin-2-ylmethyl)-amino]-propan-1-ol
prepared by reaction of 3-amino-propan-1-ol with pyridine-2-carbaldehyde

reactant | 3-amino-propan-1-ol | NCCCO | C3H9NO
reactant | pyridine-2-carbaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
product | 3-[(Pyridin-2-ylmethyl)-amino]-propan-1-ol | N1=C(C=CC=C1)CNCCCO | C9H14N2O
